US08211908B2
To a solution of 1.8 g of 2-chloro-3-nitro-5-(trifluoromethyl)pyridine in 8 mL of tetrahydrofuran, 2.0 mL of triethyl 1,1,2-ethanetricarboxylate and 0.63 g of 60% sodium hydroxide were added under cooling with ice, and the mixture was stirred at room temperature for 2 hours. Thereto were added water and ethyl acetate, the organic layer was separated, and washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to obtain 3.5 g of triethyl 1-(3-nitro-5-(trifluoromethyl)pyridin-2-yl)ethane-1,1,2-tricarboxylate as a brown oily substance.

reactant | 2-chloro-3-nitro-5-(trifluoromethyl)pyridine | 1.8 g | ClC1=NC=C(C=C1[N+](=O)[O-])C(F)(F)F | C6H2ClF3N2O2
reactant | sodium hydroxide | 0.63 g | [OH-].[Na+]
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | triethyl 1,1,2-ethanetricarboxylate | 2.0 mL | C(CC(=O)OCC)(C(=O)OCC)C(=O)OCC | C11H18O6
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | triethyl 1-(3-nitro-5-(trifluoromethyl)pyridin-2-yl)ethane-1,1,2-tricarboxylate | 3.5 g | [N+](=O)([O-])C=1C(=NC=C(C1)C(F)(F)F)C(CC(=O)OCC)(C(=O)OCC)C(=O)OCC | C17H19F3N2O8
